US04179505
A mixture of 5 parts of 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -propyl-1,2-benzenediamine, 35 parts of 1,1',1"-[methylidynetris(oxy)]trisethane and 1.5 parts of acetic acid is stirred and refluxed for 2 hours. The reaction mixture is cooled and evaporated. The residue is taken up in 100 parts of water and a hydrochloric acid solution 10 N is added till all solid enters solution. This solution is treated with activated charcoal. The latter is filtered off and the filtrate is alkalized with a sodium hydroxide solution. The product is extracted with dichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off, washed with a small amount of 4-methyl-2-pentanone and with 2,2'-oxybispropane, and dried, yielding 2.2 parts of 5-[4-(diphenylmethyl)- 1-piperazinylmethyl]-1-propyl-1H-benzimidazole; mp. 154.8° C.

reactant | 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -propyl-1,2-benzenediamine | C1(=CC=CC=C1)C(N1CCN(CC1)CC=1C=C(C(=CC1)NCCC)N)C1=CC=CC=C1 | C27H34N4
reactant | 1,1',1"-[methylidynetris(oxy)]trisethane | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[4-(diphenylmethyl)- 1-piperazinylmethyl]-1-propyl-1H-benzimidazole | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C=N2)CCC)C=C1)C1=CC=CC=C1 | C28H32N4
